US07452886B2
To a solution of 4-(2-fluoro-4-formyl-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester (97 mmol) in CH2Cl2 (600 ml), m-chloroperbenzoic acid (194 mmol) is added at 0° C. for 5 min and NaHCO3 (243 mmol) is added at 0° C. The mixture is stirred at 0° C. for 20 min and at room temperature for 1 h. To the mixture, m-chloroperbenzoic acid (48.5 mmol) is added at 0° C. The reaction mixture is stirred at room temperature for 1 h, slowly quenched with saturated NaHCO3 at 0° C. and extracted with AcOEt. The combined extracts are washed with saturated NaHCO3, brine and dried over magnesium sulfate. The solvent is evaporated. To the residue, 10% KOH/EtOH is added at 0° C. and the reaction mixture is stirred at room temperature for 1 h. After the mixture is extracted with AcOEt, the organic layer is washed with brine, dried over magnesium sulfate and filtered. The solvent is evaporated and the residue is chromatographed on silica gel (eluent; n-hexane, n-hexane:AcOEt=5:1, n-hexane:AcOEt=4:1, n-hexane:AcOEt=3:1) to give 8.5 g of desired 4-(2-fluoro-4-hydroxy-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester.

reactant | 4-(2-fluoro-4-formyl-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester | 97 mmol | FC1=C(C=CC(=C1)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21FN2O3
reactant | m-chloroperbenzoic acid | 194 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 243 mmol | C(=O)(O)[O-].[Na+]
reactant | m-chloroperbenzoic acid | 48.5 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-4-hydroxy-phenyl)-piperazine-1-carboxylic acid, tert.-butyl ester | 8.5 g | FC1=C(C=CC(=C1)O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21FN2O3
